US05849958
Preparation of p-Chloro-β-cyclopropyl-α-fluorocinnamaldehyde
Activated manganese(IV) oxide (101.25 g, 1.16 mol) is added to a solution of 3-(p-chlorophenyl)-3-cyclopropyl-2-fluoro-2-propen-l-ol, (E)- and (Z)- (26.4 g, 0.116 mol) in hexanes. The resultant reaction mixture is stirred at room temperature overnight, filtered through a pad of diatomaceous earth, and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and an ethyl acetate/hexanes solution (1:9) gives the title product as an oil (15.8 g, 60%).

reactant | 3-(p-chlorophenyl)-3-cyclopropyl-2-fluoro-2-propen-l-ol | ClC1=CC=C(C=C1)C(=C(CO)F)C1CC1 | C12H12ClFO
catalyst | manganese(IV) oxide | 1.16 mol, 101.25 g | [O-2].[Mn+4].[O-2]
product | p-Chloro-β-cyclopropyl-α-fluorocinnamaldehyde | 15.8 g, 60% | ClC1=CC=C(C(=C(C=O)F)C2CC2)C=C1 | C12H10ClFO
